US08975406B2
Step ii): 1-(1-(4-Bromophenyl)ethyl)-4-(methylsulfonyl)piperazine
1-Bromo-4-(1-chloroethyl)benzene (3.46 g, 15.8 mmol), 1-methanesulfonylpiperazine (5.19 g, 31.6 mmol) and diisopropylethylamine (11.8 mL, 79 mmol) were stirred in acetonitrile (125 mL) and heated to 65° C. for 3 d. The reaction mixture was concentrated in vacuo, dissolved in EtOAc and washed with sat. NaHCO3 (aq.). The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography using silica gel and eluting with 100% isohexanes to 100% EtOAc to give the title compound.

reactant | 1-Bromo-4-(1-chloroethyl)benzene | 15.8 mmol, 3.46 g | BrC1=CC=C(C=C1)C(C)Cl | C8H8BrCl
reactant | 1-methanesulfonylpiperazine | 31.6 mmol, 5.19 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | diisopropylethylamine | 79 mmol, 11.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 1-(1-(4-Bromophenyl)ethyl)-4-(methylsulfonyl)piperazine | BrC1=CC=C(C=C1)C(C)N1CCN(CC1)S(=O)(=O)C | C13H19BrN2O2S
